US05864039
A solution of N-benzyl-5-(4-tert-butoxycarbonylaminomethylpiperidin-1-yl)pentylamine (3.7 g) in methyl formate (30 ml) was refluxed under heating for 12 hr. After cooling, methyl formate was evaporated, and tetrahydrofuran (40 ml) and 2M trifluoroborane-dimethyl sulfide solution (19 ml) were added to the residue, which was followed by refluxing under heating for 6 hr. The solvent was evaporated, and ethanol (40 ml) and hydrochloric acid (3 ml) were added to the reaction mixture, which was followed by refluxing under heating for 3 hr. After cooling, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried and the solvent was evaporated under reduced pressure to give 3.60 g of N-benzyl-N-methyl-5-(4-aminomethylpiperidin-1-yl)pentylamine.

reactant | N-benzyl-5-(4-tert-butoxycarbonylaminomethylpiperidin-1-yl)pentylamine | 3.7 g | C(C1=CC=CC=C1)NCCCCCN1CCC(CC1)CNC(=O)OC(C)(C)C | C23H39N3O2
reactant | methyl formate | 30 ml | C(=O)OC | C2H4O2
product | N-benzyl-N-methyl-5-(4-aminomethylpiperidin-1-yl)pentylamine | 3.60 g | C(C1=CC=CC=C1)N(C)CCCCCN1CCC(CC1)CN | C19H33N3
